US08349851B2
To a solution of 2-(2,2-difluoro-2-(4-fluorophenyl)acetamido)benzamide (0.95 g, 3.08 mmol) in DCE (25 mL), TEA (17.2 mL, 0.123 mol) and chlorotrimethylsilane (5.84 mL, 0.0462 mol) were added at rt. The reaction mixture was stirred at 85° C. overnight. After cooling to rt, the solid was filtered and the filtrate was concentrated to dryness. The residue was purified on a silica gel column, using DCM/MeOH as eluent. 2-(Difluoro(4-fluorophenyl)methyl)quinazolin-4-ol was obtained as an off white solid (0.668 g, 75%). 1H NMR (300 MHz, DMSO-d6) δ 7.39 (t, 2H), 7.62 (m, 1H), 7.78-7.71 (m, 3H), 7.84 (m, 1H), 8.16 (m, 1H), 13.11 (s, 1H).

reactant | 2-(2,2-difluoro-2-(4-fluorophenyl)acetamido)benzamide | 3.08 mmol, 0.95 g | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(C1=CC=C(C=C1)F)F | C15H11F3N2O2
reactant | chlorotrimethylsilane | 0.0462 mol, 5.84 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
product | 2-(Difluoro(4-fluorophenyl)methyl)quinazolin-4-ol | FC(C1=NC2=CC=CC=C2C(=N1)O)(C1=CC=C(C=C1)F)F | C15H9F3N2O
